US09169254B2
A solution of triphosgene (345 mg, 1.16 mmol) in CH2Cl2 (7 ml) was added to a solution of tert-butylamine (331 μl, 3.14 mmol) and triethylamine (876 μl, 6.29 mmol) in CH2Cl2 (10 ml) at −78° C. The mixture was stirred at room temperature for 10 minutes, followed by addition of a solution of 8-(3-chloro-benzenesulfonyl)-2-piperidin-3-yl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate (165 mg, 0.314 mmol) and triethylamine (876 μl, 6.29 mmol) in CH2Cl2 (2 ml). Further, the reaction mixture was stirred at room temperature for 10 minutes and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 3-[8-(3-Chloro-benzenesulfonyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-en-2-yl]-piperidine-1-carboxylic acid tert-butylamide as a colorless oil (40 mg, yield 25%).

reactant | triphosgene | 1.16 mmol, 345 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-butylamine | 3.14 mmol, 331 μl | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 6.29 mmol, 876 μl | C(C)N(CC)CC | C6H15N
reactant | 8-(3-chloro-benzenesulfonyl)-2-piperidin-3-yl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate | 0.314 mmol, 165 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=CC1)S(=O)(=O)N1CCC2(C(NC(=N2)C2CNCCC2)=O)CC1
reactant | triethylamine | 6.29 mmol, 876 μl | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-[8-(3-Chloro-benzenesulfonyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-en-2-yl]-piperidine-1-carboxylic acid tert-butylamide | 40 mg, yield 25% | C(C)(C)(C)NC(=O)N1CC(CCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C2=CC(=CC=C2)Cl | C23H32ClN5O4S
